US04544400
A mixture of 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene (2.1 g, 5.8 mmol) and ammonium chloride (6.2 g, 116.0 mmol) is heated in ethanol/water (40 ml/20 ml) to 70°. Iron powder (3.2 g, 58.0 mmol) is added in small portions over 15 minutes, and the mixture is then heated under reflux for 2 hours. The reaction is filtered through celite and stripped. The residue is taken up in ether, washed with water, dried and stripped to give 4-(2-chloro-4-trifluoromethylphenoxy)-2-aminoaniline.

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene | 5.8 mmol, 2.1 g | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | ammonium chloride | 116.0 mmol, 6.2 g | [Cl-].[NH4+]
solvent | ethanol water | 40 ml | C(C)O.O
catalyst | Iron | 58.0 mmol, 3.2 g | [Fe] | Fe
product | 4-(2-chloro-4-trifluoromethylphenoxy)-2-aminoaniline | ClC1=C(OC2=CC(=C(N)C=C2)N)C=CC(=C1)C(F)(F)F | C13H10ClF3N2O
